US07612114B2
6-{2-{[4-(2-Cyclopropylaminoethoxy)-3-fluorobenzyl]methylamino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from pivalic acid 6-{2-[(3-fluoro-4-hydroxybenzoyl)methylamino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester (37 mg) and 2-chloro-N-cyclopropylacetamide (19 mg) according to an analogous synthetic method to Example 567 and purified by LC-MS, the title compound (2.2 mg) was obtained.

reactant | pivalic acid 6-{2-[(3-fluoro-4-hydroxybenzoyl)methylamino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester | 37 mg | FC=1C=C(C(=O)CNC2=C(C=CC(=C2)OC)C2CC=3C=CC(=CC3CC2)OC(C(C)(C)C)=O)C=CC1O | C30H32FNO5
reactant | 2-chloro-N-cyclopropylacetamide | 19 mg | ClCC(=O)NC1CC1 | C5H8ClNO
product | 6-{2-{[4-(2-Cyclopropylaminoethoxy)-3-fluorobenzyl]methylamino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 2.2 mg | C1(CC1)NCCOC1=C(C=C(CCNC2=C(C=CC(=C2)OC)C2CC=3C=CC(=CC3CC2)O)C=C1)F | C30H35FN2O3
